US07173031B2
B) 4-(4-(4-Amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)thiazol-2-amine
To a solution of 2-bromo-1-(4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone (392 mg, 1.0 mmol) in acetic acid (10 mL) was added thiourea (228 mg, 3.0 mmol, Aldrich). The reaction mixture was stirred at room temperature for 3 h, and then diluted with 50 mL of EtOAc. The reaction mixture was washed with saturated aq. NaHCO3 solution and brine. The organic layer was dried (MgSO4) and concentrated in vacuo to give a light yellow solid. The solid was dissolved in a mixed solvent (20 mL of THF and 40 mL of MeOH). Ammonium chloride (267 mg, 5.0 mmol, EMD) and Zn dust (327 mg, 5.0 mmol, Aldrich) were added then added to the resulting solution. The reaction mixture was stirred at room temperature overnight, diluted with 100 mL of EtOAc and filtered through a pad of Celite®. The filtrate was concentrated in vacuo and the resulting residue was purified by preparative HPLC. The desired fractions were combined, neutralized with saturated aq. NaHCO3 solution, and concentrated under reduced pressure. The solid that formed was collected by filtration (194 mg, 57% over two steps). MS(ESI+) m/z 342.2 (M+H)+.

reactant | 2-bromo-1-(4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone | 1.0 mmol, 392 mg | BrCC(=O)C1=CNC2=NC=CC(=C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F | C15H9BrFN3O4
reactant | thiourea | 3.0 mmol, 228 mg | NC(=S)N | CH4N2S
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | Ammonium chloride | 5.0 mmol, 267 mg | [Cl-].[NH4+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Zn | 5.0 mmol, 327 mg | [Zn] | Zn
solvent | MeOH | 40 mL | CO | CH4O
product | 4-(4-(4-Amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)thiazol-2-amine | NC1=CC(=C(OC2=C3C(=NC=C2)NC=C3C=3N=C(SC3)N)C=C1)F | C16H12FN5OS
